US04922049
Synthesis of Cis-9-Tricosene
A 12 l flask equipped with a reflux condenser, Firestone valve, mechanical stirrer, and addition funnel was flushed with N2. 500 g of oleyl alcohol and 1500 ml of tetrahydrofuran were added to the flask and the reaction mixture was cooled to 0° C. 1330 ml of n-butyllithium (1.6M in hexane) was added dropwise while maintaining the temperature below 5° C. The addition of butyllithium was completed in approximately 45 min. 420.6 g of p-toluenesulfonyl chloride was then added and the temperature was increased to 35°-40° C. using a heating mantle. The temperature was held at 40° C. for 3 hr. The reaction mixture was then cooled to 0° C. using a dry ice/isopropanol bath. 10 g of cuprous bromide was added followed by the dropwise addition of 1120 ml of n-pentylmagnesium bromide (2.5M in diethyl ether). This addition was completed in 48 min and the temperature was maintained near 0° C. during this time. The reaction mixture was stirred for 1 hr following the addition of n-pentylmagnesium bromide, then warmed to room temperature and held overnight under N2. 6.5 l of 4M HCl was added followed by phase separation. The organic phase was washed with 3 l of saturated sodium bicarbonate solution, followed by 2 volumes of a 1M KOH/MeOH solution (an aqueous KOH/MeOH solution as prepared by mixing one part of methanol and one part of water, with a final KOH concentration of 1M) the aqueous phase is then decanted. The organic solvent was removed by rotor evaporation and the residue distilled at 0.1 mm Hg vacuum. The distilled yield based on pure oleyl alcohol was 92.3%, with the final product containing 75% cis isomer.

reactant | methanol | CO | CH4O
reactant | oleyl alcohol | C(CCCCCCC\C=C/CCCCCCCC)O | C18H36O
solvent | water | O | H2O
product | Cis-9-Tricosene | CCCCCCCC\C=C/CCCCCCCCCCCCC | C23H46
